US06291485B1
A. Synthesis of 2-bromo-3′-ethoxyacetophenone
While a mixture of 3′-ethoxyacetophenone (37 g, 0.225 mol), aluminum chloride (0.27 g, 2 m mol) and ether (100 ml) was stirred under cooling with ice, bromine (11.5 ml, 0.225 m mol) was added dropwise thereto over a period of 15 minutes. After this mixture was further stirred for 10 minutes, ice water (500 ml) was added thereto and this mixture was extracted with ether (2×100 ml). After the extract was washed with water and dried, the solvent was distilled off under reduced pressure. The resulting residue was distilled under reduced pressure (150-155° C./5 mmHg) to obtain the desired compound (45.7 g). Although this product contained a small amount of dibromo-substituted compounds, it was directly used in the following step.

reactant | 3′-ethoxyacetophenone | 0.225 mol, 37 g | C(C)OC=1C=C(C=CC1)C(C)=O | C10H12O2
reactant | aluminum chloride | 0.27 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | bromine | 11.5 ml | BrBr | Br2
solvent | ether | 100 ml | CCOCC | C4H10O
product | 2-bromo-3′-ethoxyacetophenone | 45.7 g | BrCC(=O)C1=CC(=CC=C1)OCC | C10H11BrO2
